US08049006B2
6-benzyl-4-(4-chlorobenzenesulfonyl)-1,4-diazepan-2,5-dione (Compound 177)
N-(tert-butoxycarbonyl)-2-benzyl-β-alanine synthesized by using benzaldehyde as the starting material for the similar procedure as in Reference Examples 2 to 5, Reference Example 23, and Reference Example 33 was used instead of the starting material of Reference Example 148, that is, the compound S33, and 4-chlorobenzenesulfonamide was used instead of 4-nitrobenzenesulfonamide for the similar procedure as in Reference Example 148 to Reference Example 150 and Example 173 to obtain the title compound.

reactant | N-(tert-butoxycarbonyl)-2-benzyl-β-alanine | C(C)(C)(C)OC(=O)NCC(C(=O)O)CC1=CC=CC=C1 | C15H21NO4
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | 4-chlorobenzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)N | C6H6ClNO2S
product | 6-benzyl-4-(4-chlorobenzenesulfonyl)-1,4-diazepan-2,5-dione | C(C1=CC=CC=C1)C1C(N(CC(NC1)=O)S(=O)(=O)C1=CC=C(C=C1)Cl)=O | C18H17ClN2O4S
